US06441019B2
6-(3 -Chlorophenyl)-1,4-dihydro-4,4-dimethyl-2H-thieno[3,2-d][1,3]oxazin-2-one
To a solution of [5-(3-Chloro-phenyl)-2-(1-hydroxy-1-methyl-ethyl)-thiophen-3-yl]-carbamic acid allyl ester (0.12 g, 0.34 mmol) in anhydrous THF (5.0 mL) was added KOtBU (0.076 g, 0.068 mmol) and stirred for 15 minutes, quenched with H2O, and in situ crystallization was carried out by adding minimal amount of MeOH to the solution. The white crystals were collected on a Büchner funnel, mp 123-125° C. 1H NMR (DMSO-d6) δ1.64(s, 6H), 7.05(s, 1H), 7.37-7.48(m, 2H), 7.53-7.56(s, 1H), 7.67-7.68 (m, 1H), 10.41(s, 1H); MS(EI) mlz 293/295(M+H); Anal. Calc. For C17H18CINO3S: C, 57.24; H, 4.12; N, 4.77. Found: C, 56.93; H, 3.92; N, 4.97.

reactant | [5-(3-Chloro-phenyl)-2-(1-hydroxy-1-methyl-ethyl)-thiophen-3-yl]-carbamic acid allyl ester | 0.34 mmol, 0.12 g | C(C=C)OC(NC1=C(SC(=C1)C1=CC(=CC=C1)Cl)C(C)(C)O)=O | C17H18ClNO3S
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 6-(3 -Chlorophenyl)-1,4-dihydro-4,4-dimethyl-2H-thieno[3,2-d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC=2NC(OC(C2S1)(C)C)=O | C14H12ClNO2S
